US07067517B2
Methyl-phenyl-carbamic acid 3-(benzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound was prepared from 3-benzyl-7-hydroxy-4-methyl-2H-chromen-2-one and 3-(methyl-phenyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide. HPLC-MS m/z=400 (M+1), Rt: 4.90 min.

reactant | 3-benzyl-7-hydroxy-4-methyl-2H-chromen-2-one | C(C1=CC=CC=C1)C=1C(OC2=CC(=CC=C2C1C)O)=O | C17H14O3
reactant | 3-(methyl-phenyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].CN(C(=O)N1C=[N+](C=C1)C)C1=CC=CC=C1
product | Methyl-phenyl-carbamic acid 3-(benzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester | C(C1=CC=CC=C1)C=1C(OC2=CC(=CC=C2C1C)OC(N(C1=CC=CC=C1)C)=O)=O | C25H21NO4
